US05294737
To obtain 1c(-), a solution of (-)-(1R,2S)-2-phenyl-1-cyclohexyl hydroxyacetate (851 mg, 3.63 mmol) was prepared through esterification of benzyloxyacetyl chloride with (-)-(1R,2S)-2-phenyl-1-cyclohexanol followed by hydrogenolysis. Then, triisopropylsilyl chloride (840 mg, 4.36 mmol) and imidazole (618 mg, 9.08 mmol) in dimethylformamide (DMF) (1.7 mL) was stirred at room temperature for 12-20 hours. The mixture was poured into pentane (25 mL), and washed with water and brine. The combined organic layers were dried over anhydrous MgSO4 and concentrated in vacuo. The crude product was subjected to a purification on a short silica gel column using hexane/chloroform (3/1) as the eluant to give pure 1c(-) (1.35 g, 95% yield) as a colorless oil.

reactant | benzyloxyacetyl chloride | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
reactant | (-)-(1R,2S)-2-phenyl-1-cyclohexanol | C1(=CC=CC=C1)[C@H]1[C@@H](CCCC1)O | C12H16O
reactant | triisopropylsilyl chloride | 4.36 mmol, 840 mg | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
reactant | imidazole | 9.08 mmol, 618 mg | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 1.7 mL | CN(C=O)C | C3H7NO
solvent | pentane | 25 mL | CCCCC | C5H12
product | (-)-(1R,2S)-2-phenyl-1-cyclohexyl hydroxyacetate | 3.63 mmol, 851 mg, 95% yield | OCC(=O)O[C@H]1[C@@H](CCCC1)C1=CC=CC=C1 | C14H18O3
